US09034866B2
Synthesis of tert-butyl 3-(10-bromo-2-carbamoyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepin-3-yl)azetidine-1-carboxylate
Similar to as described for 10-bromo-3-cyclopropyl-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide above, 10-bromo-3-iodo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was coupled with (1-(tert-butoxycarbonyl)azetidin-3-yl)zinc(II) iodide to give the titled compound after purification by flash column chromatography.

reactant | 10-bromo-3-cyclopropyl-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C3CC3)C1)F | C17H15BrFN3O
reactant | 10-bromo-3-iodo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)I)C1 | C14H11BrIN3O
reactant | (1-(tert-butoxycarbonyl)azetidin-3-yl)zinc(II) iodide | [I-].C(C)(C)(C)OC(=O)N1CC(C1)[Zn+]
product | tert-butyl 3-(10-bromo-2-carbamoyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepin-3-yl)azetidine-1-carboxylate | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(N)=O)C3CN(C3)C(=O)OC(C)(C)C)C1 | C22H25BrN4O3
